US07476399B2
2,3-Dihydro-benzo[1,4]dioxine-6-carboxylic acid (1-propyl-butyl)-amide
Prepared in a similar manner to example 4 using 2,3-Dihydro-benzo[1,4]dioxine-6-carboxylic acid and heptan-4-amine. MS (M+H, 278.2).

reactant | 2,3-Dihydro-benzo[1,4]dioxine-6-carboxylic acid | O1CCOC2=C1C=CC(=C2)C(=O)O | C9H8O4
reactant | heptan-4-amine | CCCC(CCC)N | C7H17N
product | 2,3-Dihydro-benzo[1,4]dioxine-6-carboxylic acid (1-propyl-butyl)-amide | C(CC)C(CCC)NC(=O)C1=CC2=C(OCCO2)C=C1 | C16H23NO3
